US09388197B2
A.1.5.2. 2-Bromo-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid
A mixture of methyl 2-bromo-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate (150 mg, 0.54 mmol) and LiOH.H2O (34 mg, 0.81 mmol) in THF/MeOH/H2O (5 mL, 3:1:1) was stirred at RT for 90 min. The mixture was diluted with H2O and extracted with DCM. The aq. layer was acidified to pH=3 and extracted with DCM. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo.

reactant | methyl 2-bromo-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | 0.54 mmol, 150 mg | BrC=1SC2=C(N1)CCCC2C(=O)OC | C9H10BrNO2S
reactant | LiOH.H2O | 0.81 mmol, 34 mg | O[Li].O
solvent | THF MeOH H2O | 5 mL | C1CCOC1.CO.O
solvent | H2O | O | H2O
product | 2-Bromo-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid | BrC=1SC2=C(N1)CCCC2C(=O)O | C8H8BrNO2S
